US09035078B2
Preparation of unlike-9,10-dihydroxyoctadecanedinitrile
To a solution of 0.10 g like-8,8′-(oxirane-2,3-diyl)dioctanenitrile in 5.0 g THF was added 0.50 mL of a solution of 0.0988 g 70% HClO4 in 1.9104 g water. After standing for 24 h at room temperature, the mixture was diluted with 250 mL CH2Cl2, which resulted in the separation of aqueous droplets. The mixture was dried over Na2CO3 and evaporated to afford 0.10 g of product as a white powder.

reactant | 8,8′-(oxirane-2,3-diyl)dioctanenitrile | O1C(C1CCCCCCCC#N)CCCCCCCC#N | C18H30N2O
reactant | THF | 5.0 g | C1CCOC1 | C4H8O
solvent | water | 1.9104 g | O | H2O
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 9,10-dihydroxyoctadecanedinitrile | 0.10 g | OC(CCCCCCCC#N)C(CCCCCCCC#N)O | C18H32N2O2
